US04889854
0.41 g of 7-nitro-1(2H)-phthalazinethione and 0.37 g of 3-phenyl-2,2-oxiranedicarbonitrile in 10 ml of acetone are heated under reflux for 30 hours. After cooling in an ice-bath, the violet crystals obtained are removed by filtration under suction, washed with ether and dried in vacuo. There is obtained 9-nitro-3-hydroxy-2-phenylthiazolo[2,3-a]-phthalazin-4-ium hydroxide (internal salt) of m.p. 303°-305°.

reactant | 7-nitro-1(2H)-phthalazinethione | 0.41 g | [N+](=O)([O-])C1=CC=C2C=NNC(C2=C1)=S | C8H5N3O2S
reactant | 3-phenyl-2,2-oxiranedicarbonitrile | 0.37 g | C1(=CC=CC=C1)C1C(O1)(C#N)C#N | C10H6N2O
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 9-nitro-3-hydroxy-2-phenylthiazolo[2,3-a]-phthalazin-4-ium hydroxide | [OH-].[N+](=O)([O-])C=1C=CC2=CN=[N+]3C(=C2C1)SC(=C3O)C3=CC=CC=C3 | InChI=1S/C16H9N3O3S.H2O/c20-15-14(10-4-2-1-3-5-10)23-16-13-8-12(19(21)22)7-6-11(13)9-17-18(15)16;/h1-9H;1H2
